US06362177B1
A mixture of 1-[4-(chloroformyl)benzyl]-4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidine (0.042 mmol), 2-methoxyethylamine (3.8 mg, 0.050 mmol), piperidinomethylpolystyrene (46 mg) and dichloromethane (1.5 mL) was stirred at room temperature for 17 h. Water (0.020 mL) was added and the mixture was stirred for 30 min. Methanol (1 mL) was added and the mixture was loaded onto Varian™ SCX column, and washed with CH3OH (10 mL). Product was eluted off using 2 N NH3 in CH3OH (5 mL) and concentrated to afford 1-[4-{N-(2-methoxyethyl)carbamoyl}benzyl]-4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidine (Compound No. 1612) (26.7 mg, 100%): The purity was determined by RPLC/MS (92%); ESI/MS m/e 535.2 (M++H, C27H33F3N4O4).

reactant | 1-[4-(chloroformyl)benzyl]-4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidine | 0.042 mmol | ClC(=O)C1=CC=C(CN2CCC(CC2)CNC(CNC(C2=CC(=CC=C2)C(F)(F)F)=O)=O)C=C1 | C24H25ClF3N3O3
reactant | 2-methoxyethylamine | 0.050 mmol, 3.8 mg | COCCN | C3H9NO
reactant | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
reactant | Water | 0.020 mL | O | H2O
solvent | Methanol | 1 mL | CO | CH4O
product | 1-[4-{N-(2-methoxyethyl)carbamoyl}benzyl]-4-[{N-(3-(trifluoromethyl)benzoyl)glycyl}aminomethyl]piperidine | COCCNC(=O)C1=CC=C(CN2CCC(CC2)CNC(CNC(C2=CC(=CC=C2)C(F)(F)F)=O)=O)C=C1 | C27H33F3N4O4
